US07067501B2
4-(2-Bromo-phenoxy)-biphenyl
A mixture of 2-bromophenol (2.08 g, 12 mmol), 4-biphenylboronic acid (4.75 g, 24 mmol), Cu(OAc)2 (2.20 g, 12 mmol) and triethylamine (6.1 g, 60 mmol) in dioxane (100 mL) was stirred for 48 h. The crude mixture was evaporated onto silica gel and purified by column chromatography eluting with ethyl acetate/heptane 1:9. Yield: 0.73 g (19%). 1H NMR (CDCl3, 500 MHz) 7.65 (m, 1H) 7.55 (m, 4H), 7.43 (m, 2H), 7.25–7.38 (m, 2H), 7.00–7.08 (m, 4H); MS(m/z): 325.1.

reactant | 2-bromophenol | 12 mmol, 2.08 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | 4-biphenylboronic acid | 24 mmol, 4.75 g | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | triethylamine | 60 mmol, 6.1 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Cu(OAc)2 | 12 mmol, 2.20 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 4-(2-Bromo-phenoxy)-biphenyl | BrC1=C(OC2=CC=C(C=C2)C2=CC=CC=C2)C=CC=C1 | C18H13BrO
